US06218431B1
Step A: Methyl 2,6diisopropyl-4-(4-fluorophenyl)-5-hydroxymethyl-3-pyridinecarboxylate
Prepared from methyl isobutyrylacetate, 4-fluorobenzaldehyde and ammonium acetate by the procedures described in Example 1, Steps A-D.

reactant | methyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | Methyl 2,6diisopropyl-4-(4-fluorophenyl)-5-hydroxymethyl-3-pyridinecarboxylate | C(C)(C)C1=NC(=C(C(=C1C(=O)OC)C1=CC=C(C=C1)F)CO)C(C)C | C20H24FNO3
